US05200412
N-Benzyloxycarbonyl-L-tyrosine (31.5 g, 0.1 mol) was dissolved in aqueous sodium hydroxide (10 g in 100 ml H2O) and dimethylsulphate (10.5 ml, 0.11 mol) added dropwise to the stirred solution. The reaction was stirred overnight, additional dimethylsulphate (2 ml) added in one portion and the reaction stirred for a further 48 hours. 2M Hydrochloric acid was added until a white precipitate formed. This was filtered off, taken up in ethyl acetate, washed with brine and dried over anhydrous sodium sulphate, filtered and evaporated. The residue was crystallised from ethyl acetate to give N-benzyloxycarbonyl-O-methyl-L-tyrosine (5.8 g, 18%) as a white crystalline solid.

reactant | N-Benzyloxycarbonyl-L-tyrosine | 0.1 mol, 31.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C17H17NO5
reactant | dimethylsulphate | 0.11 mol, 10.5 ml | COS(=O)(=O)OC | C2H6O4S
reactant | dimethylsulphate | 2 ml | COS(=O)(=O)OC | C2H6O4S
reactant | Hydrochloric acid | 2M | Cl | ClH
solvent | sodium hydroxide | 100 ml, 10 g | [OH-].[Na+]
product | N-benzyloxycarbonyl-O-methyl-L-tyrosine | 5.8 g, 18% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)O | C18H19NO5
